2132-09-04 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2132-9-3**] 08:00 PM
 ARTERIAL LINE - START [**2132-9-3**] 09:30 PM
   BIPAP o/n, lasix 8-0 mg IV x 2 given w/ appropriate diuresis.  no acute
   events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2132-9-3**] 09:30 PM
   Haloperidol (Haldol) - [**2132-9-4**] 01:50 AM
   Furosemide (Lasix) - [**2132-9-4**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-4**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 90 (54 - 97) bpm
   BP: 143/107(274) {100/48(62) - 225/218(327)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     70 mL
                                                                     76 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                     40 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                  1,820 mL
   Urine:
                                                                    950 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                 -1,744 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,846 (335 - 1,846) mL
   PS : 14 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.31/81.[**Numeric Identifier 253**]/76.[**Numeric Identifier 128**]/37/11
   Ve: 5.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen- asleep w/ BIPAP on.  NAD.  Awakes easily to voice
   HEENT- NCAT,No JVD
   Pulm- B/L rales posteriorly, no wheeze.
   CV- S1/S2 w/o MGR
   Abd- soft, NTND, obese. + BS
   Ext- 1+ LE edema
   Labs / Radiology
   212 K/uL
   8.6 g/dL
   228 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.5 mEq/L
   34 mg/dL
   91 mEq/L
   135 mEq/L
   26.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2132-9-3**]  09:40 PM
                             [**2132-9-3**]  09:52 PM
                             [**2132-9-4**]  12:19 AM
                             [**2132-9-4**]  03:21 AM
                             [**2132-9-4**]  03:44 AM
   WBC
   9.1
   8.2
   Hct
   29.8
   26.9
   Plt
   212
   212
   Cr
   0.9
   0.9
   TCO2
   43
   41
   43
   Glucose
   218
   228
   Other labs: PT / PTT / INR:12.3/21.6/1.0, Differential-Neuts:93.1 %,
   Lymph:5.6 %, Mono:0.9 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: AICD in place, sternotomy wires, prominant hilar
   vasculature with kerly B lines. ? Effusion on L.
   Microbiology: Bcx [**9-3**] pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan: A 73 y/o woman with COPD, OSA, obesity
   hypoventilation syndrome, CHF, schizophrenia presenting with agitation
   and hypoxic hypercarbic respiratory failure.
   .
   # Hypercarbic Hypoxic Respiratory failure: Patient is presenting with
   hypercarbic respiratory failure and increased hypoxia from baseline.
   Only precipitant identified from history is worsening volume overload
   with increased edema and weight gain. She has no other obvious triggers
   to suggest infection such as infiltrate, leukocytosis, or viral
   syndrome. Unclear if also has COPD flare exacerbating presentation
   since was previously on steroids last admission but not on at
   discharge.
   - standing albuterol/ipratropium nebs q6, with prn q2
   - NIPPV with ventilator to maintain O2 sats 86-90%
   - trial of face mask for O2 sats in 86-90% through day while awake
   - continue home advair
   - Give 40mg Lasix IV x1 and start lasix drip, w/ clinical checks q4 hrs
   for signs of improvement.  Hold for UOP <30, HR >100, SBP<110.
   - check q6 hr lytes
   - BIPAP at night
   # Diastolic congestive heart failure, acute on chronic: CXR from this
   am with persistent cardiomegaly but improved pulmonary edema and has
   had trending up bicarb likely from diuresis and contraction alkaslosis.
   Currently appears euvolemic. Patient had been on home dose of lasix
   80mg PO daily, but will hold for now given adequate diuresis and
   euvolemia. Yesterday had autodiuresed -4L UOP over the last 24hrs.
   - Lasix prn SOB, e/o volume overload
   - follow strict I/Os
   - continue metoprolol (change XL to short acting for titration, shorter
   effect), aspirin
   - repeat ECG to assess right heart strain
   # Agitation: Likely multifactorial secondary to hypercarbia and
   exacerbated by high-dose steroids vs underlying schizophrenia.
   Responded well to haldol in ED and previously.
   - continue home Abilify, risperdal, Artane
   - Haldol prn for sundowning
   - restraints as needed
   # Diabetes mellitus II, well-controlled. Hemoglobin A1c of 6.8 in [**Month (only) 1996**]
   [**2132**]. Currently on home glyburide and HISS given hyperglycemia
   exacerbated by high-dose steroids.
   - continue home glyburide
   - HISS with QID fingersticks
   # Hyperlipidemia. No active concerns.
   - continue home simvastatin
   # Anemia. Baseline hematocrit high 20s to low 30s. Most recent was 28
   and stable.
   - continue to trend daily hematocrit
   # Hypothyroid. No active concerns.
   - continue home levothyroxine
   ICU Care
   Nutrition:
   Comments: regular diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-9-3**] 07:52 PM
   Arterial Line - [**2132-9-3**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin(bowel regimen)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 66**] status: DNR / DNI
   Disposition:ICU

2132-09-05 07:13:00 Physician Resident Progress Note
Chief Complaint: 73 y/o with COPD on 2.5-3.5L O2 at baseline, OSA and
   obesity hypoventilation syndrome, dCHF, discharged [**2132-8-24**] now presents
   with agitation and altered mental status with hypoxia and O2 sats 70s
   on BipAp with 5L.
   [**9-4**]
   24 Hour Events:
 ARTERIAL LINE - STOP [**2132-9-4**] 08:00 PM
   Lasix drip, out 2.5L yesterday, SBP in 80's overnight, increased with
   arousal, lytes including K stable. Lasix drip stopped due to declining
   UOP. Bolused 80mg IV of lasix. Gave patient KCl 40mEq PO for K3.4 and
   low Cl. On BiPAP, tolerating well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2132-9-4**] 03:15 PM
   Furosemide (Lasix) - [**2132-9-4**] 06:22 PM
   Heparin Sodium (Prophylaxis) - [**2132-9-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-5**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 70 (66 - 96) bpm
   BP: 101/47(60) {81/32(39) - 128/50(98)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,190 mL
                                                                     72 mL
   PO:
                                                                    850 mL
             TF:
   IVF:
                                                                    340 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    465 mL
   Urine:
                                                                  3,735 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,545 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 1,846 (1,846 - 1,846) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 89%
   ABG: 7.35/70/54/41/9
   PaO2 / FiO2: 135
   Physical Examination
   Agitated
   RRR, S1S2 clear, No MRG
   Resp: limited by agitation, crackles bilaterally.
   Abd: +ve bs, soft, nt, nd, no masses
    Ext: WWP, 1+ pitting edema
   Labs / Radiology
   201 K/uL
   8.4 g/dL
   91 mg/dL
   1.1 mg/dL
   41 mEq/L
   3.5 mEq/L
   42 mg/dL
   93 mEq/L
   141 mEq/L
   26.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2132-9-3**]  09:40 PM
                             [**2132-9-3**]  09:52 PM
                             [**2132-9-4**]  12:19 AM
                             [**2132-9-4**]  03:21 AM
                             [**2132-9-4**]  03:44 AM
                             [**2132-9-4**]  11:07 AM
                             [**2132-9-4**]  12:19 PM
                             [**2132-9-4**]  04:50 PM
                             [**2132-9-5**]  03:38 AM
   WBC
   9.1
   8.2
   5.4
   Hct
   29.8
   26.9
   26.4
   Plt
   [**Telephone/Fax (3) 9919**]
   Cr
   0.9
   0.9
   1.0
   1.0
   1.1
   TCO2
   43
   41
   43
   40
   Glucose
   [**Telephone/Fax (3) 9920**]61
   91
   Other labs: PT / PTT / INR:12.5/23.4/1.1, Differential-Neuts:93.1 %,
   Lymph:5.6 %, Mono:0.9 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Blood Cx
pending x2.
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan
   73 y/o woman with hx COPD, OSA, obesity hyperventilation syndrome, CHF,
   schizophrenia presenting with agitation and hypoxic hypercarbic
   respiratory failure.
   Hypoxic hypercarbic respiratory failure: Presented in HHRF with hypoxia
   increased from baseline. CHF> COPD (steroids stopped on last hospital
   dc)exacerbation as precipitants. No obvious triggers to suggest
   infection (no infiltrate, leukocytosis or viral syndrome).
   Did well with BIPAP O/n mask ventilation diuring day, maintaining sats
   in 90s.
   Continue albuterol/ip nebs, home advair
   dCHF, acute on chronic: CXR: persistent cardomegaly, improved pulmonary
   edema, trending up bicarb, from diuresis/contraction alkalosis. Did not
   respond to lasix drip but responded to lasix bolus 80mg IV, net
   2.5L.
   Repeat lasix 80 IV x1, check lytes in pm, goal net neg 2L.
   Agitation: Multifactorial, hypercarbia, exacerbated by high dose
   steroids, underyling schizophrenia.
   Responds to haldol. Continue PRN agitation.
   Continue Abilify, artane, restart home dose respiradone 3mg.
   Restraints as needed.
   DM: well controlled. H1AC 6.8 in [**Month (only) 1996**]. Currently on home glyburide,
   HISS given hyperglycemia, exacerbated by high dsose steroids.
   Continur home glyburide, HISS QID fingersticks.
   Hyperlipidemia: cont simvastatin.
   Anemia: Baseline HCT high 20s to low 30s. Most recent HCT stable at 28.
   Continue to trend daily.
   Hypothyroid: cont home levoythroxine.
   ICU Care
   Nutrition:
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2132-9-3**] 07:52 PM
   Arterial line- [**2132-9-4**]- [**10-29**] pm
   Prophylaxis:bowel regimen
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments: need for restraints reviewed
   Communication:  Comments: daughter
   [**Name (NI) 66**] status: DNR / DNI
   Disposition: ICU

2132-09-06 06:37:00 Physician Resident Progress Note
Chief Complaint:
   Agitation, altered mental status
   24 Hour Events:
   Grew GPC in clusters ID pending, vanc started.
   Very agitated, needed extra haldol.
   Given contraction alkalosis and hypokalemia KCL 40 given.
   Lasix 80 IV given x2 to meet goal diuresis >2L.
   Received 3mg pm dose respiradone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-9-5**] 01:30 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2132-9-5**] 09:00 AM
   Furosemide (Lasix) - [**2132-9-5**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-9-6**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-6**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 92 (60 - 94) bpm
   BP: 66/54(56) {66/32(47) - 174/90(98)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    860 mL
                                                                     95 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    440 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    710 mL
   Urine:
                                                                  3,095 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,235 mL
                                                                   -615 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   ABG: ///42/
   Physical Examination
   Alert, agitated, pulling at legs, wearing BIPAP
   RRR/no MRG/ S1S2 clear
   BS difficult to assess due to moaning, coarse bilaterally through
   anterior chest.
   Abd: +VE BS/soft/nt/nd/no masses
   Ex: WWP
   Labs / Radiology
   228 K/uL
   9.1 g/dL
   135 mg/dL
   0.8 mg/dL
   42 mEq/L
   3.8 mEq/L
   34 mg/dL
   94 mEq/L
   145 mEq/L
   27.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2132-9-3**]  09:52 PM
                             [**2132-9-4**]  12:19 AM
                             [**2132-9-4**]  03:21 AM
                             [**2132-9-4**]  03:44 AM
                             [**2132-9-4**]  11:07 AM
                             [**2132-9-4**]  12:19 PM
                             [**2132-9-4**]  04:50 PM
                             [**2132-9-5**]  03:38 AM
                             [**2132-9-5**]  11:08 PM
                             [**2132-9-6**]  03:42 AM
   WBC
   8.2
   5.4
   6.6
   Hct
   26.9
   26.4
   27.8
   Plt
   [**Telephone/Fax (3) 9931**]
   Cr
   0.9
   1.0
   1.0
   1.1
   0.9
   0.8
   TCO2
   43
   41
   43
   40
   Glucose
   [**Telephone/Fax (3) 9932**]1
   165
   135
   Other labs: PT / PTT / INR:12.5/23.4/1.1, Differential-Neuts:93.1 %,
   Lymph:5.6 %, Mono:0.9 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:9.1
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: None
   Microbiology: Blood Cx x2 growing GPC in clusters
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   73 y/o with COPD on 2.5-3.5L O2 at baseline, OSA and obesity
   hypoventilation syndrome, dCHF, discharged [**2132-8-24**] now presents with
   agitation and altered mental status with hypoxia and O2 sats 70s on
   BipAp with 5L. with hypoxia improved, now growing GPC in clusters on
   bld cx.  MS significantly improved.
   dCHF, acute on chronic vs infection: Last CXR on [**9-3**] read as could not
   exclude a developing PNA.  Repeat Today.
   Has grown 2/2 bottles GPC in clusters. Cont vanc (day 2) f/u blood cx.
   Agitation:multifactoral, steroids, schizophrenia.
   Continue abilify, artane, restarted home dose respiradone 3mg.
   Restraints as needed.
   Check EKG on Haldol.
   DM: HISS, glyburide. Well controlled, exacerbated by high dose
   steroids. Continue.
   Anemia: Baseline HCT 20s to low 30s. Current HCT 27, continue to trend.
   FEN: Mg/K+ repletion.
   ICU Care
   Nutrition:
   Comments: p.o
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-9-3**] 07:52 PM
   22 Gauge - [**2132-9-6**] 04:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 66**] status: DNR / DNI
   Disposition:ICU.

2132-09-07 07:07:00 Physician Resident Progress Note
Chief Complaint: 73 y/o with COPD on 2.5-3.5L O2 at baseline, OSA and
   obesity hypoventilation syndrome, dCHF, discharged [**2132-8-24**] now presents
   with agitation and altered mental status with hypoxia and O2 sats 70s
   on BipAp with 5L. with hypoxia improved, now growing GPC in clusters on
   bld cx.  MS significantly improved.
   24 Hour Events:
   No acute events o/n. EKG w/o QT prolongation.
 EKG - At [**2132-9-6**] 03:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-9-6**] 11:36 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-9-7**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-7**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 86 (60 - 100) bpm
   BP: 139/49(67) {95/33(49) - 145/74(79)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 83%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    850 mL
                  PO:
                                                                    530 mL
                  TF:
   IVF:
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    402 mL
   Urine:
                                                                  2,520 mL
                                                                    402 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 83%
   ABG: ///43/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   9.1 g/dL
   183 mg/dL
   0.9 mg/dL
   43 mEq/L
   3.8 mEq/L
   30 mg/dL
   91 mEq/L
   140 mEq/L
   27.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2132-9-4**]  12:19 AM
                             [**2132-9-4**]  03:21 AM
                             [**2132-9-4**]  03:44 AM
                             [**2132-9-4**]  11:07 AM
                             [**2132-9-4**]  12:19 PM
                             [**2132-9-4**]  04:50 PM
                             [**2132-9-5**]  03:38 AM
                             [**2132-9-5**]  11:08 PM
                             [**2132-9-6**]  03:42 AM
                             [**2132-9-6**]  09:21 PM
   WBC
   8.2
   5.4
   6.6
   Hct
   26.9
   26.4
   27.8
   Plt
   [**Telephone/Fax (3) 9931**]
   Cr
   0.9
   1.0
   1.0
   1.1
   0.9
   0.8
   0.9
   TCO2
   41
   43
   40
   Glucose
   [**Telephone/Fax (3) 9932**]1
   165
   135
   183
   Other labs: PT / PTT / INR:12.5/23.4/1.1, Differential-Neuts:93.1 %,
   Lymph:5.6 %, Mono:0.9 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   73 y/o with COPD on 2.5-3.5L O2 at baseline, OSA and obesity
   hypoventilation syndrome, dCHF, discharged [**2132-8-24**] now presents with
   agitation and altered mental status with hypoxia and O2 sats 70s on
   BipAp with 5L. with hypoxia improved, now growing GPC in clusters on
   bld cx.  MS significantly improved.
   # Hypoxemic Hypercarbic Respiratory Failure - Unclear if pulmonary
   edema vs pneumonia
   - BiPAP at night
   - Facemask during day
   - repeat CXR
   - diurese to negative 500cc
 1000cc
   - switch to PO regimen of lasix for outpt management, start 120mg [**Hospital1 **],
   follow response, may need metolazone
   - Folow up cultures - [**3-3**] GPC in clusters, on vanc [**4-6**] vanc level
   pending
   # dCHF - fluid overload
   - diurese
   # Agitation - etiology multifactoral including steroids, schizophrenia.
   - abilify, artane, respiradone
   - restraints as needed
   - Haldol PRN, EKG
   # DM - HISS, glyburide. Well controlled, exacerbated by high dose
   steroids. Continue.
   # Anemia - Baseline HCT 20s to low 30s. Current HCT 27, continue to
   trend.
   FEN - Mg/K+ repletion, diabetic diet
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2132-9-6**] 04:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: update family
   Code status: DNR / DNI
   Disposition: ICU

2132-09-08 07:28:00 Physician Resident Progress Note
Chief Complaint: farsi only speaking woman with hx dCHF, O2 dependent
   COPD, obesity hypoventilation syndrome, sleep apnea and schizophrenia.
   Pt was admitted with altered mental status, agitation and hypoxia,
   thought to be primarily secondary to CHF exacerbation in context of
   infection.
   Mental status, hypoxia remarkedly improved on bipap at night, face mask
   during day although had desat y/d due to air leak, repaired, return to
   nl sats.
   She has had a staph bacteremia, now i.d'd as MSSA.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-9-7**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-9-7**] 11:53 AM
   Heparin Sodium (Prophylaxis) - [**2132-9-8**] 12:45 AM
   Haloperidol (Haldol) - [**2132-9-8**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 58 (55 - 87) bpm
   BP: 97/34(51) {83/26(43) - 126/72(77)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    560 mL
                  PO:
                                                                    160 mL
                  TF:
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,309 mL
                                                                    270 mL
   Urine:
                                                                  1,309 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -749 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   ABG: 7.37/86.[**Numeric Identifier 96**]/33//19
   PaO2 / FiO2: 94
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   9.2 g/dL
   94 mg/dL
   1.0 mg/dL
   44 mEq/L
   3.8 mEq/L
   29 mg/dL
   92 mEq/L
   143 mEq/L
   29.1 %
   6.8 K/uL
        [image002.jpg]
                             [**2132-9-4**]  12:19 PM
                             [**2132-9-4**]  04:50 PM
                             [**2132-9-5**]  03:38 AM
                             [**2132-9-5**]  11:08 PM
                             [**2132-9-6**]  03:42 AM
                             [**2132-9-6**]  09:21 PM
                             [**2132-9-7**]  06:09 AM
                             [**2132-9-7**]  10:11 AM
                             [**2132-9-8**]  06:17 AM
                             [**2132-9-8**]  06:33 AM
   WBC
   5.4
   6.6
   6.3
   6.8
   Hct
   26.4
   27.8
   32.2
   29.1
   Plt
   [**Telephone/Fax (3) 9967**]27
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   1.0
   TCO2
   40
   52
   52
   Glucose
   161
   91
   165
   135
   183
   94
   Other labs: PT / PTT / INR:12.5/23.4/1.1, Differential-Neuts:75.9 %,
   Lymph:17.9 %, Mono:3.9 %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: Rotated slightly to right, slightly improved lung fields.
   Microbiology: ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   0.5 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   VANCOMYCIN------------   <=1 S
   2/4 bottles.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 .H/O ANEMIA, CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-9-7**] 06:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: